Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Shellfish Derived / Niacin
 
Attending: ___.
 
Chief Complaint:
gangrene right ___ toes
 
Major Surgical or Invasive Procedure:
Right lower extremity diagnostic angiogram

 
History of Present Illness:
___ with history of a-fib (not on Coumadin), DM, CAD and AS
s/p CABGx3, AVR, and MV repair referred to ED from OSH for RLE
toe gangrene. History obtained with assistance of patient's two
sons. Three months ago, patient tripped over nasal cannula 
tubing
and sustained a diffuse RLE hematoma in setting of Coumadin use
for a-fib requiring transfusion but no ___ intervention.
Ecchymosis eventually resolved but he developed a "blood 
blister"
at the right toes which was drained by a podiatrist but he
subsequently developed gangrene of his right ___ and ___ toes
about 3 weeks ago.  Per patient's sons, gangrene initially
appeared wet and with spreading erythema. After a course of
antibiotics recently, gangrene became drier and cellulitis
significantly improved. Patient was planned to undergo a CTA of
his lower extremities per his PCP but study was cancelled when
labs showed elevated Cr. PCP called Dr. ___ 
and
was directed to the ED for further evaluation.

At present, patient sons report his gangrene and cellulitis
appears much better today than it has had in previous weeks.
Patient denies pain in his foot or toes. He occasionally has 
pain
in his leg when he walks as well as right foot pain when he lays
down at night that improves after he rubs it with a cream and he
is able to easily return to sleep.  
 
Past Medical History:
Hypertension
Diabetes mellitus type ___
Mitral Regurgitation
Aortic stenosis
Hyperlipidemia 

 
Social History:
___
Family History:
father deceased ___ myocardial infarction
mother deceased ___ myocardial infarction 
diabetes
 
Physical Exam:
At admission: 

VS - 98.4, 78, 122/59, 18, 98% RA
Gen: NAD, well-appearing, alert & oriented
CV: RRR, no murmurs
Pulm: Unlabored effort, CTAB
Abd: Soft, non-tender, non-distended
Ext: Right foot swollen compared to left with erythema on dorm.
Warm bilaterally. Right ___ and ___ toes with dry gangrene from
IP joint to tip - no drainage.
Pulses - fem / pop / DP / ___
     R:   P    D     D    D  -signals biphasic
     L:   P    D     D    D  -signals all monophoasic

At discharge: 

Gen: NAD, well-appearing, alert & oriented
CV: RRR
Pulm: non-labored breathing
Abd: Soft, non-tender, non-distended
Ext: Right foot swollen compared to left with erythema on dorm.
Warm bilaterally. Right ___ and ___ toes with dry gangrene from
IP joint to tip - no drainage.
Pulses - fem / pop / DP / ___
     R:   P    D     D    D  -signals biphasic
     L:   P    D     D    D  -signals all monophoasic

 
Pertinent Results:
Angiogram (___): 

ANGIOGRAPHIC FINDINGS:
1. Patent infrarenal abdominal aorta.
2. Patent bilateral common and external iliac arteries.
    The hypogastric arteries appeared to be occluded.  There
    was evidence of calcified plaque at the origins of the
    bilateral common iliac arteries that do not appear to be
    significantly flow limiting.
3. The right common femoral artery is patent.  The profunda
    femoris is patent but has a lesion of calcified plaque
    at its origin.  The right superficial femoral artery is
    occluded at its origin.
4. There is a short segment of reconstitution of the behind-
    the-knee popliteal artery before reocclusion.
5. The right anterior tibial and posterior tibial arteries
    are both occluded in the leg and foot.  The right
    peroneal
    artery provides vessel runoff to the foot.  All 3 tibial
    vessels are heavily calcified.
 
Brief Hospital Course:
Mr. ___ presented to ___ ED on ___ for evaluation of 
right toe gangrene. He was admitted to the Vascular Surgery 
service and started on IV antibiotics. He was taken to the angio 
suite on ___ where he was found to have an occlusion of his 
SFA. No interventions were undertaken. For full details of the 
procedure, please see the separately dictated Operative Report. 
He was monitored closely after the procedure and groin remained 
soft. 

Foley was removed after the patient was off bedrest and patient 
had no issues voiding spontaneously. He was advanced to a 
regular diet which he tolerated well. Antibiotics were 
transitioned to oral (Augmentin), which he will complete a 10 
day course of. He was discharged home with plans to schedule 
outpatient follow up to arrange an angiogram to address the SFA 
occlusion. 

Physical therapy was consulted while patient was in house and 
recommended home with ___. 

He was discharged home on ___ with home physical therapy 
services. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Finasteride 5 mg PO DAILY 
5. Fish Oil (Omega 3) 1000 mg PO BID 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*16 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Finasteride 5 mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO BID  
5.  Metoprolol Succinate XL 100 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Peripheral artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You underwent a diagnostic angiogram for evaluation of your 
blood flow to your right foot. You need blood flow in order to 
heal the wounds on your right foot. Unfortunately, the vascular 
disease in the arteries of your right leg was quite extensive, 
and the arteries were unable to be opened. You will be brought 
back to the angiography suite to make another attempt at opening 
the arteries in your leg using a different technique. You will 
be called to schedule that procedure.

WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
 Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
 Avoid prolonged periods of standing or sitting without your 
legs elevated
 It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
 Drink plenty of fluids and eat small frequent meals
 It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
 To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
 When you go home, you may walk and use stairs
 You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
 Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
 No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
 After 1 week, you may resume sexual activity
 After 1 week, gradually increase your activities and distance 
walked as you can tolerate
 No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
 Numbness, coldness or pain in lower extremities 
 Temperature greater than 101.5F for 24 hours
 New or increased drainage from incision or white, yellow or 
green drainage from incisions
 Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
 Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___